US08609675B2
Step C—Synthesis of 3-(Quinolin-3-yl)-5-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-6-(1-ethoxyvinyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (Int-2c)
A mixture of 3-(quinolin-3-yl)-5-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (Int-2b, 210 mg, 0.28 mmol), tributyl(1-ethoxyvinyl)stannane (310 mg, 0.84 mmol) and Pd(Ph3P)4 (31 mg, 0.028 mmol) in anhydrous dioxane (5.0 mL) was heated under argon at 100° C. for 24 h, cooled and concentrated. The residue purified by Biotage (CH2Cl2/EtOAc, 20:1 to 4:1) to give 169 mg (83%) of the title compound as a light brown solid. LC/MS RT=2.58 min (5 min method). Mass calculated for, M+H 724.33, observed 724.33.

reactant | 3-(quinolin-3-yl)-5-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 0.28 mmol, 210 mg | N1=CC(=CC2=CC=CC=C12)C=1C=NN2C1N=C(C=C2N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)C2CCS(CC2)(=O)=O | C32H47N5O4SSi2
reactant | tributyl(1-ethoxyvinyl)stannane | 0.84 mmol, 310 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.028 mmol, 31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(Quinolin-3-yl)-5-(1,1-dioxo-tetrahydro-2H-thiopyran-4-yl)-6-(1-ethoxyvinyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 169 mg, 83% | N1=CC(=CC2=CC=CC=C12)C=1C=NN2C1N=C(C(=C2N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)C(=C)OCC)C2CCS(CC2)(=O)=O | C36H53N5O5SSi2
